US05091432
0.500 g (5.49 mmol) of 3-amino-1,2-propanediol was placed into a 10 ml round bottom flask with a magnetic stirring bar. The flask was heated to 110° C. and 0.250 g (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) was added to the stirring solution. The solution was stirred at 100°-110° C. for one hour. The flask was allowed to cool to room temperature and 10 ml of 1:1 acetonitrile/methanol was added and the solution was stirred vigorously for 30 minutes. The resulting white precipitate was collected using Buchner funnel filtration to yield 272 mg of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-(2,3-dihydroxyprop-1-yl)propanamide (AIT-0062) as a white solid. 91% yield.

reactant | 3-amino-1,2-propanediol | 5.49 mmol, 0.500 g | NCC(CO)O | C3H9NO2
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mmol, 0.250 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
solvent | acetonitrile methanol | 10 ml | C(C)#N.CO
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-(2,3-dihydroxyprop-1-yl)propanamide | 272 mg, 91% yield | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCC(CO)O | C11H15N5O4
